US07884234B2
(2) Preparation of 4-[4-(trifluoromethoxy)phenoxy]aniline
A mixture of 1-nitro-4-[4-(trifluoromethoxy)phenoxy]benzene (4.18 g, 13.970 mmol), 10% platinum-activated charcoal (270 mg) and ethanol (40 ml) was stirred for 3 hours under hydrogen atmosphere. The reaction mixture was filtered through celite. The residue obtained by concentration of the filtrate under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1) to give the title compound (3.54 g, 93.9%) as a yellow oil.

reactant | 1-nitro-4-[4-(trifluoromethoxy)phenoxy]benzene | 13.970 mmol, 4.18 g | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F | C13H8F3NO4
catalyst | platinum | 270 mg | [Pt] | Pt
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-[4-(trifluoromethoxy)phenoxy]aniline | 3.54 g, 93.9% | FC(OC1=CC=C(OC2=CC=C(N)C=C2)C=C1)(F)F | C13H10F3NO2
